US07495110B2
Stage 3: methyl 3-amino-4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)benzoate
Methyl 4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)-3-nitrobenzoate (9.1 g) in solution in an ethyl acetate/methanol mixture and 10% palladium on carbon (910 mg) are added together in an autoclave. After stirring for 4 hours under a hydrogen atmosphere (3 bars), the catalyst is eliminated by filtration on Celite and the filtrate is concentrated under reduced pressure at 40° C. in order to produce the expected compound in the form of an oil (8.2 g, 98% yield).

reactant | Methyl 4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)-3-nitrobenzoate | 9.1 g | CN(CCCNC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-])CCC1=NC=CC=C1 | C19H24N4O4
catalyst | palladium on carbon | 910 mg | [Pd] | Pd
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | methyl 3-amino-4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)benzoate | NC=1C=C(C(=O)OC)C=CC1NCCCN(CCC1=NC=CC=C1)C | C19H26N4O2
